US09193697B2
Step A6.2-3: tert-butyl 4-{5-bromo-4-[4-(methylsulfinyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate
tert-Butyl 4-{5-bromo-4-[4-(methylsulfanyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate (705 mg, 1.55 mmol) was dissolved in methylene chloride (15.5 nit) under argon atmosphere. 3-Chloroperoxybenzoic acid (383 mg, 1.55 mL) was dissolved in methylene chloride (3.1 mL) and added via syringe to the stirring solution. The resulting solution was stirred at 25° C. for 1 hour. The solution was then diluted with methylene chloride (15 mL) and washed with saturated sodium bicarbonate followed by brine. The organics were dried over sodium sulfate and concentrated in vacuo to yield 680 mg of the desired product as colorless oil. LCMS (M+1)=469.40

reactant | tert-Butyl 4-{5-bromo-4-[4-(methylsulfanyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate | 1.55 mmol, 705 mg | BrC1=C(N=C(O1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)SC | C20H25BrN2O3S
reactant | 3-Chloroperoxybenzoic acid | 1.55 mL, 383 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{5-bromo-4-[4-(methylsulfinyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate | 680 mg | BrC1=C(N=C(O1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)S(=O)C | C20H25BrN2O4S
